* signal_harmonic
* Created by Alexander Bordodynov
* 1 June 2022.

*The Fourier transform block
.subckt signal_harmonic vt a1 p1 f=1kHz
.func FF(x,T)  {x-delay(x,T)}
B1 0 isin i=FF(2*f*idt(V(vt)*sin(2*pi*f*time)),1/F) Rpar=1 Cpar={1u/F} tripdt={1u/F}
B3 0 icos i=FF(2*f*idt(V(vt)*cos(2*pi*f*time)),1/F) Rpar=1 Cpar={1u/F} tripdt={1u/F}
B5 0 a1 i=hypot(V(isin),V(icos)) Rpar=1 Cpar={10m/F}
B6 0 p1 i=atan2(V(icos),V(isin))  Rpar=1 Cpar={10m/F}
.ends signal_harmonic